US05679791
Preparation of Isopropyl 3-(2-chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
A solution of 3-(2-chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetic acid (43.6 g, 0.105 mol) and concentrated sulfuric acid (25 mL) in 2-propanol (300 mL) is refluxed for 12 hours, cooled to room temperature and filtered to obtain a solid. The solid is dried to give the title product as an off-white solid which is identified by NMR spectral analyses. The filtrate is partially concentrated in vacuo and poured over ice. The resultant aqueous mixture is extracted with ethyl acetate and the organic extract is dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain an orange oil. Flash column chromatography of the oil using silica gel and 2.5% to 5% ether in methylene chloride solutions gives additional title product as a yellow foam.

reactant | 3-(2-chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetic acid | 0.105 mol, 43.6 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C(N(C1=O)C)=O)CC(=O)O)=O | C12H8ClFN4O7
reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-propanol | 300 mL | CC(C)O | C3H8O
product | Isopropyl 3-(2-chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O | C15H14ClFN4O7
